US09035051B1
(2S)-2-Amino-1-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]propan-1-one
Dissolve tert-butyl N-[(1S)-2-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]-1-methyl-2-oxo-ethyl]carbamate (15.78 g, 37.05 mmol) in DCM (185 mL), add TFA (185 mL) in a dropwise manner over 3 min, and stir overnight. Analyze the reaction by LCMS (low pH) to show complete conversion. Slowly add MeOH (400 mL) due to exothermic mixing. Prewash three SCX columns (50 g) with water (20 mL) and then MeOH (20 mL). Divide the reaction mixture into three equal portions and load equally onto the SCX columns Wash each column with water (40 mL) and MeOH (40 mL) collecting the washes in a vacuum flask. Elute the desired material from the SCX columns with 2 N ammonia in MeOH (60 mL) into a clean vessel. Combine the product containing solutions, concentrate under reduced pressure, azeotrope with DCM-hexanes (1:1), three times, and place under vacuum to obtain the title compound as a white foam (10.29 g, 84%). LC-ES/MS m/z (35Cl/37Cl) 326.2/328.2 (M+1).

reactant | tert-butyl N-[(1S)-2-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]-1-methyl-2-oxo-ethyl]carbamate | 37.05 mmol, 15.78 g | NC1=NC(=NC(=C1CCC1CCN(CC1)C([C@H](C)NC(OC(C)(C)C)=O)=O)Cl)C | C20H32ClN5O3
reactant | TFA | 185 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MeOH | 400 mL | CO | CH4O
reactant | water | 20 mL | O | H2O
reactant | MeOH | 20 mL | CO | CH4O
solvent | DCM | 185 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-Amino-1-[4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]-1-piperidyl]propan-1-one | 10.29 g, 84% | N[C@H](C(=O)N1CCC(CC1)CCC=1C(=NC(=NC1Cl)C)N)C | C15H24ClN5O
